US06495581B1
After a mixture of 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (600 mg), ethyl 6-oxo-6-phenylhexanoate (452 mg), acetic acid (0.331 ml), sodium acetate (317 mg) and ethanol (20 ml) was heated to reflux for 15 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-6-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoate (590 mg, yield 58%) as a colorless oil from an ethyl acetate-hexane (2:9, v/v)-eluted fraction.

reactant | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 600 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CON)C=CC1 | C18H18N2O3
reactant | ethyl 6-oxo-6-phenylhexanoate | 452 mg | O=C(CCCCC(=O)OCC)C1=CC=CC=C1 | C14H18O3
reactant | acetic acid | 0.331 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 317 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl E-6-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoate | 590 mg, yield 58% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CO\N=C(/CCCCC(=O)OCC)\C2=CC=CC=C2)C=CC1 | C32H34N2O5
